US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-[3-(4-morpholinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate
Method as for preparations 2 and 3 combined using 2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (preparation 168) (1.00 g, 3.36 mmol) and N-hydroxy-2-(4-morpholinyl)ethanimidamide (J. Org. Chem.; 1958, 23, 1112) (534 mg, 3.36 mmol) as starting material.

reactant | 2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 3.36 mmol, 1.00 g | C(C)(C)(C)OC(CC(C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | N-hydroxy-2-(4-morpholinyl)ethanimidamide | 3.36 mmol, 534 mg | ONC(CN1CCOCC1)=N | C6H13N3O2
product | tert-butyl (3R)-6-cyclohexyl-3-[3-(4-morpholinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN1CCOCC1 | C23H39N3O4
